US06673964B1
A process for producing a calcium propionate comprising contacting propionitrile, a calcium compound selected from calcium hydroxide, calcium oxide or mixtures thereof, and water at a temperature of about 90° C. to about 250° C. at a sufficient pressure to achieve the desired temperature and for a sufficient time to produce a reaction mixture comprising calcium propionate;

reactant | propionitrile | C(CC)#N | C3H5N
reactant | calcium | [Ca] | Ca
reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
reactant | calcium oxide | [O-2].[Ca+2]
solvent | water | O | H2O
product | calcium propionate | C(CC)(=O)[O-].[Ca+2].C(CC)(=O)[O-] | InChI=1S/2C3H6O2.Ca/c2*1-2-3(4)5;/h2*2H2,1H3,(H,4,5);/q;;+2/p-2
